spice
* SPICE netlist for the provided circuit

V1 n_in 0 DC ?
I1 n_in n_cs_dc DC -I_B2_R2
R1 n_out n_in R1_value
R2 n_in 0 R2_value
XOP n_in n_inv n_out OPAMP   ; Define op-amp with nodes

* Note: Replace ? with the appropriate voltage for V1 (if known), 
* and replace R1_value, R2_value with the respective resistance values.

.END